US04281188
13 g (0.042 M) of rac-7-amino-3-ethyl-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one are dissolved in 70 ml of concentrated hydrochloric acid at -10° C. and chlorine gas is then conducted in at -10° C. until the starting material can no longer be detected by thin-layer chromatography. The mixture is neutralised slowly with a mixture of ice and 10% sodium carbonate solution and the mixture is extracted several times with methylene chloride. The organic solution is washed with water, dried over sodium sulphate, filtered and concentrated. The residue is purified on a 300 g silica gel column with methylene chloride/ethyl acetate (10:1) and crystallised from ethanol. There is obtained rac-7-amino-3-ethyl-6-chloro-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2one which melts at 250° C.

reactant | rac-7-amino-3-ethyl-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 0.042 M, 13 g | NC=1C=CC2=C(C(=NC(C(N2C)=O)CC)C2=C(C=CC=C2)F)C1 | C18H18FN3O
reactant | chlorine | ClCl | Cl2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 70 ml | Cl | ClH
product | rac-7-amino-3-ethyl-6-chloro-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2one | NC=1C=CC2=C(C(=NC(C(N2C)=O)CC)C2=C(C=CC=C2)F)C1Cl | C18H17ClFN3O
